US07514470B2
2-[(3-Chloro-4-cyanophenyl)(2,2,2-trifluoroethyl)amino]-N-ethylbutanamide
Synthesized in a manner similar to example 3 using 2-[(3-chloro-4-cyanophenyl)(2,2,2-trifluoroethyl)amino]butanoic acid and ethylamine: MS (ES) m/z 348 (M+1).

reactant | 2-[(3-chloro-4-cyanophenyl)(2,2,2-trifluoroethyl)amino]butanoic acid | ClC=1C=C(C=CC1C#N)N(C(C(=O)O)CC)CC(F)(F)F | C13H12ClF3N2O2
reactant | ethylamine | C(C)N | C2H7N
product | 2-[(3-Chloro-4-cyanophenyl)(2,2,2-trifluoroethyl)amino]-N-ethylbutanamide | ClC=1C=C(C=CC1C#N)N(C(C(=O)NCC)CC)CC(F)(F)F | C15H17ClF3N3O
